* Fontes DC
Vcell	vcell	gnd		DC	supply
Vvdd	vdd		gnd		DC	supply
Vwl2	wl2		gnd		DC	0
Vwl22	wl22	gnd		DC	0


* Ondas

Vbit 	bit 	gnd 	PWL ('0*ts_w'              0       '2*unit'              0   
							+ '2*unit+slope'        supply  '4*unit'              supply)

Vwe	we	gnd		PWL ('0*ts_w'              0       '2*ts_w'              0   
							+ '2*ts_w+slope'        supply  '5*ts_w'              supply   
							+ '5*ts_w+slope'        0       '2*unit+2*ts_w'       0
							+ '2*unit+2*ts_w+slope' supply  '2*unit+5*ts_w'       supply
							+ '2*unit+5*ts_w+slope' 0        '4*unit'             0)


Vwl 	wl	gnd		PWL ('0*ts_w'              0        '3*ts_w'              0 
							+ '3*ts_w+slope'        supply '4*ts_w'              supply 
							+ '4*ts_w+slope'        0        'unit+2*ts_r'         0
							+ 'unit+2*ts_r+slope'   supply 'unit+3*ts_r'         supply
							+ 'unit+3*ts_r+slope'   0        '2*unit+3*ts_w'       0
							+ '2*unit+3*ts_w+slope' supply '2*unit+4*ts_w'       supply
							+ '2*unit+4*ts_w+slope' 0        '3*unit+2*ts_r'       0
							+ '3*unit+2*ts_r+slope' supply '3*unit+3*ts_r'       supply
							+ '3*unit+3*ts_r+slope' 0        '4*unit'              0)



Vpre 	pre	gnd		PWL ('0*ts_w'              0       'ts_w'                0 
							+ 'ts_w+slope'          supply  '6*ts_w'              supply 
							+ '6*ts_w+slope'        0       'unit+ts_r'           0
							+ 'unit+ts_r+slope'     supply  'unit+6*ts_r'         supply
							+ 'unit+6*ts_r+slope'   0       '2*unit+ts_w'		 0
							+ '2*unit+ts_w+slope'   supply  '2*unit+6*ts_w'       supply
							+ '2*unit+6*ts_w+slope' 0       '3*unit+ts_r'         0
							+ '3*unit+ts_r+slope'   supply  '3*unit+6*ts_r'       supply
							+ '3*unit+6*ts_r+slope' 0       '4*unit'				 0)

	
Vsae 	sae	gnd		PWL ('0*ts_w'              0       'unit+4*ts_r'         0 
							+ 'unit+4*ts_r+slope'   supply  'unit+5*ts_r'         supply
							+ 'unit+5*ts_r+slope'   0       '3*unit+4*ts_r'       0
							+ '3*unit+4*ts_r+slope' supply  '3*unit+5*ts_r'       supply
							+ '3*unit+5*ts_r+slope' 0       '4*unit'              0)